US05051508
2-Methyl-3-(2-chloroethyl)-4-chloroquinoline (45 g, 0.16 mol), 2-methylaniline (35 ml, 0.32 mol) and ethanol (300 ml) were heated to 150° C. in a pressure vessel for 17 hours, then concentrated in vacuo. The product crystallised as the hydrochloride salt. Conversion to free base and recrystallisation from ethyl acetate yielded 1-(2-methylphenyl)-4-methyl-2,3-dihydropyrrolo[3,2-c]quinoline (19.1 g, 43%), m.p. 148°-150°.

reactant | 2-Methyl-3-(2-chloroethyl)-4-chloroquinoline | 0.16 mol, 45 g | CC1=NC2=CC=CC=C2C(=C1CCCl)Cl | C12H11Cl2N
reactant | 2-methylaniline | 0.32 mol, 35 ml | CC1=C(N)C=CC=C1 | C7H9N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-(2-methylphenyl)-4-methyl-2,3-dihydropyrrolo[3,2-c]quinoline | 19.1 g, 43% | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C=CC=CC3C21)C | C19H18N2
